US08633315B2
A solution of (4S,5S)-tert-butyl 5-((tert-butyldimethylsilyloxy)methyl)-2,2-dimethyl-4-(prop-2-ynyl)oxazolidine-3-carboxylate (0.60 g, 1.6 mmol) in THF (5 mL) was cooled to −78° C. and butyllithium (0.75 mL, 1.9 mmol) was added dropwise. After 5 min, the mixture was re-cooled to −78° C. and iodomethane (0.15 mL, 2.3 mmol) was added dropwise. The mixture was stirred at 0° C. for 2 h and brought to RT and stirred for 15 h. The reaction mixture was quenched with sat NH4Cl, filtered, concentrated, and chromatographed on silica gel eluting with hexanes to afford a light yellow oil as (4S,5S)-tert-butyl 4-(but-2-ynyl)-5-((tert-butyldimethylsilyloxy)methyl)-2,2-dimethyloxazolidine-3-carboxylate (0.463 g, 74% yield). MS m/z: 298 (M+1).

reactant | (4S,5S)-tert-butyl 5-((tert-butyldimethylsilyloxy)methyl)-2,2-dimethyl-4-(prop-2-ynyl)oxazolidine-3-carboxylate | 1.6 mmol, 0.60 g | [Si](C)(C)(C(C)(C)C)OC[C@@H]1[C@@H](N(C(O1)(C)C)C(=O)OC(C)(C)C)CC#C | C20H37NO4Si
reactant | butyllithium | 1.9 mmol, 0.75 mL | C(CCC)[Li]
reactant | iodomethane | 2.3 mmol, 0.15 mL | IC | CH3I
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | (4S,5S)-tert-butyl 4-(but-2-ynyl)-5-((tert-butyldimethylsilyloxy)methyl)-2,2-dimethyloxazolidine-3-carboxylate | 0.463 g, 74% yield | C(C#CC)[C@@H]1N(C(O[C@@H]1CO[Si](C)(C)C(C)(C)C)(C)C)C(=O)OC(C)(C)C | C21H39NO4Si
